US08557983B2
methyl 2-((2-aminothiazol-4-yl)methoxy)-4-fluorobenzoate
A mixture of methyl 4-fluoro-2-hydroxybenzoate (552 mg), 4-(chloromethyl)thiazol-2-amine hydrochloric acid (600 mg) and Cs2CO3 (2.64 g) in 15 mL N,N-dimethylformamide was stirred at room temperature for 24 hours. Water was added and the mixture was extracted with ethyl acetate (2×), washed with water (2×) and brine, dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel using 10-50% ethyl acetate in hexanes as eluent.

reactant | methyl 4-fluoro-2-hydroxybenzoate | 552 mg | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | 4-(chloromethyl)thiazol-2-amine hydrochloric acid | 600 mg | Cl.ClCC=1N=C(SC1)N
reactant | Cs2CO3 | 2.64 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | methyl 2-((2-aminothiazol-4-yl)methoxy)-4-fluorobenzoate | NC=1SC=C(N1)COC1=C(C(=O)OC)C=CC(=C1)F | C12H11FN2O3S
